US07494996B2
A mixture of 0.51 g of 1-(2,2,2-trifluoroethyl)-3-phenyl-4,5-dihydro-1,2,4-triazin-6-one (2.0 mmol) and 0.48 g of DDQ (2.1 mmol) in 20 mL of ethyl acetate was stirred at room temperature overnight, then heated to 70° C. for 2 hours. The reaction mixture was cooled and washed with aqueous potassium carbonate, water (2 times) and brine, dried over magnesium sulfate, filtered and stripped. The product was dissolved in ethyl acetate/methylene chloride and treated with silica gel, then filtered through silica gel over Celite to give 0.40 g of 1-(2,2,2-trifluoroethyl)-3-phenyl-1,2,4-triazin-6-one, melting point 129-131° C.

reactant | 1-(2,2,2-trifluoroethyl)-3-phenyl-4,5-dihydro-1,2,4-triazin-6-one | 2.0 mmol, 0.51 g | FC(CN1N=C(NCC1=O)C1=CC=CC=C1)(F)F | C11H10F3N3O
reactant | DDQ | 2.1 mmol, 0.48 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 1-(2,2,2-trifluoroethyl)-3-phenyl-1,2,4-triazin-6-one | 0.40 g | FC(CN1N=C(N=CC1=O)C1=CC=CC=C1)(F)F | C11H8F3N3O
